US07528147B2
0.027 g of piperid-4-ol, 0.075 g of potassium carbonate and 0.016 g of sodium iodide are added to a solution of 0.055 g of 4-chloromethyl-2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine in 3 cm3 of acetonitrile, at a temperature in the region of 20° C. The reaction medium is heated at 80° C. for one hour. After cooling, the reaction medium is filtered through a sinter funnel and the filtrate is concentrated under reduced pressure. The residue obtained is taken up in 3 cm3 of water and 4 cm3 of ethyl acetate. After separation of the phases by settling, the organic phase is dried over magnesium sulfate, filtered and then concentrated under reduced pressure. 0.049 g of [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]piperid-4-ol is obtained, the characteristics of which are as follows:

reactant | piperid-4-ol | 0.027 g | N1CCC(CC1)O | C5H11NO
reactant | potassium carbonate | 0.075 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.016 g | [I-].[Na+]
reactant | 4-chloromethyl-2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.055 g | ClCC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)C)S(=O)(=O)C2=CC=C(C=C2)C | C26H24ClN3O4S
solvent | acetonitrile | 3 cm3 | C(C)#N | C2H3N
solvent | water | 3 cm3 | O | H2O
solvent | ethyl acetate | 4 cm3 | C(C)(=O)OCC | C4H8O2
product | [2-(5,6-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyrid-4-ylmethyl]piperid-4-ol | 0.049 g | COC=1C=C2C(=CN(C2=CC1OC)C)C1=CC=2C(=NC=CC2CN2CCC(CC2)O)N1S(=O)(=O)C1=CC=C(C=C1)C | C31H34N4O5S
